US07601868B2
1-phenyl-4-{4-[1-(1-pyrrolidinyl)ethyl]phenyl}-1-butanone hydrochloride
To a solution of phenylmagnesium bromide (2 mol/l THF solution, 1.6 ml) in toluene (7 ml) was added dropwise a solution of N-methoxy-N-methyl-4-{4-[1-(1-pyrrolidinyl)ethyl]phenyl}butanamide (200 mg, 0.66 mmol) obtained in Reference Example 89 in toluene (3 ml) under a nitrogen atmosphere under ice-cooling. After stirring at room temperature for 1 hr, the reaction solution was poured into water (40 ml), and extracted with ethyl acetate (40 ml×2). The extract was washed successively with 10% sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by NH-silica gel column chromatography (developing solvent; hexane:ethyl acetate=10:1) to give a colorless oil. The oil was dissolved in ethyl acetate (10 ml), and 4N-hydrochloric acid (ethyl acetate solution; 0.2 ml) was added dropwise under ice-cooling. The mixture was stirred for 5 min., and the solvent was evaporated under reduced pressure. The residue was powderized with isopropyl ether and hexane, and washed with hexane to give the title compound.

reactant | phenylmagnesium bromide | 2 mol/l, 1.6 ml | C1(=CC=CC=C1)[Mg]Br
reactant | N-methoxy-N-methyl-4-{4-[1-(1-pyrrolidinyl)ethyl]phenyl}butanamide | 0.66 mmol, 200 mg | CON(C(CCCC1=CC=C(C=C1)C(C)N1CCCC1)=O)C | C18H28N2O2
reactant | water | 40 ml | O | H2O
reactant | hydrochloric acid | 0.2 ml | Cl | ClH
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 1-phenyl-4-{4-[1-(1-pyrrolidinyl)ethyl]phenyl}-1-butanone hydrochloride | Cl.C1(=CC=CC=C1)C(CCCC1=CC=C(C=C1)C(C)N1CCCC1)=O | InChI=1S/C22H27NO.ClH/c1-18(23-16-5-6-17-23)20-14-12-19(13-15-20)8-7-11-22(24)21-9-3-2-4-10-21;/h2-4,9-10,12-15,18H,5-8,11,16-17H2,1H3;1H
